US08227613B2
1,4-Dimethyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid
A solution of 0.30 g (1.0 mmol) of 2-hydroxy-4-methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid/4-methyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid in 15 ml of MeOH was treated with 0.06 ml=0.01 g (0.1 mmol) of H2SO4 (98%) and the reaction mixture was heated up to reflux. After 4 hours, it was cooled down to RT, poured into crashed ice and extracted twice with CH2Cl2; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 9:1) to give 0.24 g (77%) of the title compound as off-white solid. MS: 312.0 (MH+).

reactant | 2-hydroxy-4-methyl-6-(3-trifluoromethyl-phenyl)-nicotinic acid 4-methyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid | 1.0 mmol, 0.30 g | OC1=C(C(=O)O)C(=CC(=N1)C1=CC(=CC=C1)C(F)(F)F)C.CC1=C(C(NC(=C1)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | 2C14H10F3NO3
reactant | H2SO4 | 0.1 mmol, 0.01 g | OS(=O)(=O)O | H2O4S
solvent | MeOH | 15 ml | CO | CH4O
product | 1,4-Dimethyl-2-oxo-6-(3-trifluoromethyl-phenyl)-1,2-dihydro-pyridine-3-carboxylic acid | 0.24 g, 77% | CN1C(C(=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)O)=O | C15H12F3NO3
